US09388189B2
(S)-2-(1-((6-Amino-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (90 mg, 0.16 mol) was treated with (3-fluoro-4-hydroxyphenyl)boronic acid (38 mg, 0.24 mol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (22 mg, 0.02 mol) and a solution of sodium carbonate (2M, 317 μl, 0.73 mol) according to the method described in Example 3 to give 150 mg of the title compound that was used in the next step without any further purification.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.16 mol, 90 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)Br)I | C18H15BrIN7O
reactant | (3-fluoro-4-hydroxyphenyl)boronic acid | 0.24 mol, 38 mg | FC=1C=C(C=CC1O)B(O)O | C6H6BFO3
reactant | sodium carbonate | 0.73 mol, 2M, 317 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 150 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)Br)C2=CC(=C(C=C2)O)F | C24H19BrFN7O2
